US05180723
Acetonitrile (3.2 ml, 0.058 mol) was added dropwise to a solution of lithium diisopropylamide (1.5M in THF, 36.7 ml, 0.055 mol) stirred at -78° C. under argon. After 5 min. a solution of 4,4'-dimethoxybenzophenone (10.0 g, 0.048 mol) in dry THF (130 ml) was added slowly. The mixture was allowed to warm up to -35° C. and after 20 min. was quenched by the cautious dropwise addition of a solution of acetic acid (3.0 g) in water (6 ml). Brine (50 ml) was added, the organic layer separated washed with brine (50 ml) and the combined aqueous phases were extracted with DCM (2×50 ml). The combined organics were dried over anhydrous magnesium sulphate, filtered and concentrated. The residue was crystallised from ethyl acetate to give 3-hydroxy-3,3-di(4-methoxyphenyl)propanenitrile (10.12 g, 85%) as a white crystalline solid.

reactant | Acetonitrile | 0.058 mol, 3.2 ml | C(C)#N | C2H3N
reactant | lithium diisopropylamide | 0.055 mol, 1.5M, 36.7 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4,4'-dimethoxybenzophenone | 0.048 mol, 10.0 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 3-hydroxy-3,3-di(4-methoxyphenyl)propanenitrile | 10.12 g, 85% | OC(CC#N)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H17NO3
